US08168794B2
To a solution of (4R)-4-(hydroxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one (1.0 equiv.) in pyridine (0.15 M) at 0° C. was added p-toluenesulfonylchloride (2.1 equiv.). The solution was allowed to warm to rt as it stirred for 14 hours, at which time EtOAc was added and the solution was washed with H2O (3×), CuSO4(sat.) (2×), H2O, Na2CO3(sat.) and NaCl(sat.), dried over MgSO4, filtered, concentrated and purified by silica gel chromatography (75% EtOAc/hexanes eluant) yielding 2-((4R)-2-oxo-4-(tosyloxymethyl)oxazolidin-5-yl)propyl 4-methylbenzenesulfonate (68%). LCMS (m/z): 484.1 (MH+); LC Rt=4.06 min.

reactant | (4R)-4-(hydroxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one | 1.0 equiv. | OC[C@H]1NC(OC1C(CO)C)=O | C7H13NO4
reactant | p-toluenesulfonylchloride | 2.1 equiv. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | pyridine | 0.15 M | N1=CC=CC=C1 | C5H5N
product | 2-((4R)-2-oxo-4-(tosyloxymethyl)oxazolidin-5-yl)propyl 4-methylbenzenesulfonate | 68% | CC1=CC=C(C=C1)S(=O)(=O)OCC(C)C1[C@H](NC(O1)=O)COS(=O)(=O)C1=CC=C(C)C=C1 | C21H25NO8S2
